### PR TITLE
proposed fix for the issue #12015 (String_as_OT)

### LINKED ISSUE #12015: String_as_OT.compare blows up when evaluated
#### Description of the problem
Here's a straightforward use of FSets:

    From Coq Require Import FSets.FSetAVL Structures.OrderedTypeEx String.

    Module StringAVLSet := FSetAVL.Make String_as_OT.
    Import StringAVLSet.
    Open Scope string_scope.

    Eval vm_compute in mem "aa" (add "aa" (add "ab" empty)).

However, Coq evaluates this term to a 200K monstrosity and takes some time too:

    $ time coqc Bug.v | wc
       3512    9636  206693

    real	0m8,475s
    user	0m8,138s
    sys	0m0,310s

Is a set of two elements really supposed to work like this?

#### Coq Version
Tried under:
8.10.0
8.10.1
8.10.2
8.11.0

### PR DESCRIPTION
**Pull request by formalize**
**Kind:** bug fix

Fixes / closes #12015 

- [ ] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Review by JasonGross — CHANGES_REQUESTED** [review]
I would suggest moving all of the `ascii` comparison into its own module, `Ascii_as_OT`.  This module might be independently useful, and there's no reason to hide it inside the `String_as_OT` module.

File: theories/Structures/OrderedTypeEx.v [hunk 1]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+        match b with
+        | EmptyString => Gt
+        | String b_head b_tail =>
+            match ascii_compare a_head b_head with
+            | Lt => Lt
+            | Gt => Gt
+            | Eq => cmp a_tail b_tail
+            end
+        end
+    end.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:423]: I think this might be a bit clearer as
```suggestion
    match a, b with
    | EmptyString, EmptyString => Eq
    | EmptyString, _ => Lt
    | String _ _, EmptyString => Gt
    | String a_head a_tail, String b_head b_tail =>
      match ascii_compare a_head b_head with
      | Lt => Lt
      | Gt => Gt
      | Eq => cmp a_tail b_tail
      end
    end.
```

File: theories/Structures/OrderedTypeEx.v [hunk 2]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+
+  Lemma cmp_eq (a b : string):
+    cmp a b = Eq  <->  a = b.
+  Proof.
+  generalize b. clear b.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:428]:
```suggestion
  revert b.
```

File: theories/Structures/OrderedTypeEx.v [hunk 3]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  induction a; intro b. { induction b; easy. }
+  cbn.
+  destruct b. { easy. }
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:431]:
```suggestion
  induction a, b; cbn; try easy.
```

File: theories/Structures/OrderedTypeEx.v [hunk 4]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  remember (ascii_compare _ _) as cmp. symmetry in Heqcmp.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:432]: Please don't use autogenerated names
```suggestion
  remember (ascii_compare _ _) as cmp eqn:Heqcmp. symmetry in Heqcmp.
```

File: theories/Structures/OrderedTypeEx.v [hunk 5]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+    ascii_compare a b = CompOpp (ascii_compare b a).
+  Proof.
+  unfold ascii_compare.
+  apply N.compare_antisym.
+  Qed.
+
+  Lemma cmp_antisym (a b : string):
+    cmp a b = CompOpp (cmp b a).
+  Proof.
+  generalize b. clear b.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:452]:
```suggestion
  revert b.
```

File: theories/Structures/OrderedTypeEx.v [hunk 6]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  induction a. { destruct b; easy. }
+  intro b. destruct b. { easy. }
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:454]:
```suggestion
  induction a, b; try easy.
```

File: theories/Structures/OrderedTypeEx.v [hunk 7]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  cbn. rewrite IHa. clear IHa.
+  remember (ascii_compare _ _) as cmp. symmetry in Heqcmp.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:456]:
```suggestion
  remember (ascii_compare _ _) as cmp eqn:Heqcmp. symmetry in Heqcmp.
```

File: theories/Structures/OrderedTypeEx.v [hunk 8]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  destruct cmp; rewrite ascii_compare_antisym in Heqcmp; destruct ascii_compare; cbn in *; easy.
+  Qed.
+
+  Lemma cmp_lt (a b : string):
+    cmp a b = Lt  <->  lt a b.
+  Proof.
+  generalize b. clear b.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:463]:
```suggestion
  revert b.
```

File: theories/Structures/OrderedTypeEx.v [hunk 9]
```diff
@@ -378,32 +378,149 @@ Module String_as_OT <: UsualOrderedType.
...
+  induction a as [ | a_head a_tail ].
+  {
+    destruct b. { easy. }
+    cbn. split; trivial. intro. apply lts_empty.
+  }
+  intro b. cbn. destruct b. { easy. }
+  remember (ascii_compare _ _) as cmp. symmetry in Heqcmp.
```
Comment (JasonGross) [inline theories/Structures/OrderedTypeEx.v:470]:
```suggestion
  remember (ascii_compare _ _) as cmp eqn:Heqcmp. symmetry in Heqcmp.
```

**Review by JasonGross — CHANGES_REQUESTED** [review]
Here are some optional suggestions to clean up the proofs a bit.  Also, please consider indenting all the proofs by two spaces (see the other proofs in the file for comparison).)

**Comment by formalize** [comment]
Thanks for the suggestions, I've committed them and written Ascii_as_OT.

**Review by JasonGross — APPROVED** [review]

**Comment by JasonGross** [comment]
Thanks for the contribution, and LGTM!   I'll leave this for @coq/stdlib-maintainers to review and assign (though if no-one assigns after a couple days or a week, I can assign).

**Comment by JasonGross** [comment]
Though you should probably also add a changelog entry, as the TODO list indicates.

**Comment by herbelin** [comment]
> Thanks for the contribution, and LGTM! I'll leave this for @coq/stdlib-maintainers to review and assign (though if no-one assigns after a couple days or a week, I can assign).

Same as @anton-trunov. It looks good to me and you can go ahead.

**Comment by JasonGross** [comment]
@herbelin Should we wait for a changelog entry?

@formalize Are you planning to add a changelog entry soon?

**Comment by formalize** [comment]
Maybe next time. I don't want to do it yet.

**Comment by JasonGross** [comment]
Okay, I'll write a changelog entry and open a separate PR for it
